### PR TITLE
[Merged by Bors] - feat: port Algebra.Algebra.Bilinear

### PR DESCRIPTION
**Pull request by ocfnash**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Algebra/Bilinear.lean [hunk 1]
```diff
@@ -0,0 +1,271 @@
...
+
+variable (R A : Type _) [CommSemiring R] [Semiring A] [Algebra R A]
+
+/-- The multiplication in an algebra is an algebra homomorphism into the endomorphisms on
+the algebra.
+
+A weaker version of this for non-unital algebras exists as `NonUnitalAlgHom.mul`. -/
+def Algebra.lmul : A →ₐ[R] End R A :=
+  {
+    LinearMap.mul R
```
Comment (ocfnash) [inline Mathlib/Algebra/Algebra/Bilinear.lean:170]: What is the style convention in Mathlib4? Should these two lines just be
```suggestion
  { LinearMap.mul R
```

Comment (ocfnash) [reply Mathlib/Algebra/Algebra/Bilinear.lean:170]: (same comment for `NonUnitalAlgHom.lmul` above)

File: Mathlib/Algebra/Algebra/Bilinear.lean [hunk 2]
```diff
@@ -0,0 +1,271 @@
...
+
+@[simp]
+theorem Algebra.coe_lmul_eq_mul : ⇑(Algebra.lmul R A) = mul R A :=
+  rfl
+#align algebra.coe_lmul_eq_mul LinearMap.Algebra.coe_lmul_eq_mul
+
+@[simp]
+theorem mulLeft_eq_zero_iff (a : A) : mulLeft R a = 0 ↔ a = 0 := by
+  constructor <;> intro h
+  -- porting note: can we avoid supplying `R` explicitly in `@mulLeft_apply` below?
```
Comment (ocfnash) [inline Mathlib/Algebra/Algebra/Bilinear.lean:198]: Alternatively, we could make `R` explicit in `mulLeft_apply`

File: Mathlib/Algebra/Algebra/Bilinear.lean [hunk 3]
```diff
@@ -0,0 +1,271 @@
...
+
+section Ring
+
+variable {R A : Type _} [CommSemiring R] [Ring A] [Algebra R A]
+
+/-- This instance should not be necessary. porting note: can we drop this? -/
+local instance : Module R A := Algebra.toModule
+
+/-- This instance should not be necessary. porting note: can we drop this? -/
+local instance : Module A A := Semiring.toModule
```
Comment (ocfnash) [inline Mathlib/Algebra/Algebra/Bilinear.lean:247]: I'd really like to know why these are necessary and to be able to drop them.

File: Mathlib/Algebra/Algebra/Bilinear.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/Algebra/Algebra/Bilinear.lean:198]: (same comment for `mulRight_eq_zero_iff` below)

File: Mathlib/Algebra/Algebra/Bilinear.lean (hunk 3 above)
Comment (jcommelin) [reply Mathlib/Algebra/Algebra/Bilinear.lean:247]: Should be related to leanprover/lean#2074. Please mention that issue in the porting note.

File: Mathlib/Algebra/Algebra/Bilinear.lean (hunk 2 above)
Comment (jcommelin) [reply Mathlib/Algebra/Algebra/Bilinear.lean:198]: I think we should be careful with changing the binding type. It might make future ports more confusing.

File: Mathlib/Algebra/Algebra/Bilinear.lean (hunk 1 above)
Comment (jcommelin) [reply Mathlib/Algebra/Algebra/Bilinear.lean:170]: Yeah, that's a bug in mathport. Please merge those lines.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada: 

bors d+

File: Mathlib/Algebra/Algebra/Bilinear.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/Algebra/Algebra/Bilinear.lean:247]: Ah indeed, I note that these instances are not necessary if I instead write:
```lean
set_option synthInstance.etaExperiment true
```

Comment (ocfnash) [reply Mathlib/Algebra/Algebra/Bilinear.lean]: So this is almost certainly caused by https://github.com/leanprover/lean4/issues/2074

**Comment by ocfnash** [comment]
bors merge
